US08133901B2
5-(2-methoxy-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester
prepared by reaction of 3-chloro-3-(2-methoxy-phenyl)-2-oxo-propionic acid methyl ester with thioacetamide. LC-MS: tR=0.88 min; [M+H]+=264.1.

reactant | 3-chloro-3-(2-methoxy-phenyl)-2-oxo-propionic acid methyl ester | COC(C(C(C1=C(C=CC=C1)OC)Cl)=O)=O | C11H11ClO4
reactant | thioacetamide | C(C)(=S)N | C2H5NS
product | 5-(2-methoxy-phenyl)-2-methyl-thiazole-4-carboxylic acid methyl ester | COC(=O)C=1N=C(SC1C1=C(C=CC=C1)OC)C | C13H13NO3S
